US05182325
C. Poly (benzyl-bisphenol-A-borate) having a high Tg-Value
The synthesis was carried out in the same manner as for the product having a low Tg. 100g of tribenzyl borate and 68g of bisphenol-A were used. The residue is poured out after distillation at a temperature of 300° C. After cooling the resulting solid was pulverised. In representative cases the Tg is above 100° C.

reactant | tribenzyl borate | B(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C21H21BO3
reactant | bisphenol-A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
product | benzyl-bisphenol-A borate | C(C1=CC=CC=C1)C1=C(O)C=CC(=C1)C(C)(C)C1=CC=C(C=C1)O.B([O-])([O-])[O-] | InChI=1S/C22H22O2.BO3/c1-22(2,18-8-11-20(23)12-9-18)19-10-13-21(24)17(15-19)14-16-6-4-3-5-7-16;2-1(3)4/h3-13,15,23-24H,14H2,1-2H3;/q;-3
